US07169925B2
Step G4: 3-(4-Pyridinylamino)-1H-indole-2-carboxylic acid potassium salt
Charge a mixture of 7.50 kg (26.66 mol) of 3-amino-1H-indole-2-carboxylic acid ethyl ester, 37.5L of ethanol and 37.5 L of 4M KOH to a 30-gal reactor and heat to 75° C. over 30 min. Monitor the progress of the reaction by HPLC (Column—150×3.9 mm Waters Symmetry C18, 5 micron; mobile phase—20% acetonitrile/80% 0.1% TFA in water; flow rate—1.0 mL/min; wavelength—225 nm; RT: 3-amino-1H-indole-2-carboxylic acid potassium salt—3.3 min; 3-amino-1H-indole-2-carboxylic acid ethyl ester—6.0 min). Typically achieve, a 100% conversion within 3 h. Cool the mixture to 25° C. over 2 h and concentrate at 50–60° C./50 torr to a residue. Add a total of 37.5 L of water and heat the mixture to and hold at 85° C. for 30 min. Cool the mixture to 10° C. over 2 hours, and then further cool to and hold at 5° C. for 2 hours. Filter off the solid that forms, wash with a total of 10 L of 4M KOH solution and air dry. Further dry the solid at 35° C. in a forced air oven for 72 h to give 10.9 kg, 140% yield of the title compound: HPLC analysis 70.7% pure.

reactant | 3-amino-1H-indole-2-carboxylic acid ethyl ester | 26.66 mol, 7.50 kg | C(C)OC(=O)C=1NC2=CC=CC=C2C1N | C11H12N2O2
reactant | ethanol | 37.5L | C(C)O | C2H6O
reactant | KOH | 4M, 37.5 L | [OH-].[K+]
reactant | 3-amino-1H-indole-2-carboxylic acid potassium salt | [K+].NC1=C(NC2=CC=CC=C12)C(=O)[O-]
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(4-Pyridinylamino)-1H-indole-2-carboxylic acid potassium salt | 10.9 kg, 140% yield | [K+].N1=CC=C(C=C1)NC1=C(NC2=CC=CC=C12)C(=O)[O-] | InChI=1S/C14H11N3O2.K/c18-14(19)13-12(16-9-5-7-15-8-6-9)10-3-1-2-4-11(10)17-13;/h1-8,17H,(H,15,16)(H,18,19);/q;+1/p-1
